US07291632B2
Preparation 26. 1-Methyl-4-(N-(2-fluoro-3-chlorophenyl)ethylamino)piperidine
Add acetaldehyde (0.817 g) to a solution of 1-methyl-4-(3-chloro-2-fluorophenylamino)piperidine (Preparation 19) (0.45 g), sodium cyanoborohydride (0.123 g) and trifluoroacetic acid (0.633 g) in methanol (20 mL) and heat in a sealed tube at 80° C. for three days. Load on a SCX column (10 g), wash with methanol, elute with 2M NH3 in methanol, evaporate, and further purify on a silica gel column (35 g), using a gradient of dichloromethane-2M NH3 in methanol to give 0.50 g of the title intermediate as a colorless oil: mass spectrum (electric spray) m/z=271 (+1); 1H NMR (CDCl3): 6.94 (m, 3H), 3.14 (q, J=7.0 Hz, 2H), 3.06 (m, 1H), 2.84 (br d, 2H), 2.22 (s, 3H), 1.93 (m, 2H), 1.74 (m, 4H), 0.95 (t, J=7.0 Hz, 3H).

reactant | acetaldehyde | 0.817 g | C(C)=O | C2H4O
reactant | 1-methyl-4-(3-chloro-2-fluorophenylamino)piperidine | 0.45 g | CN1CCC(CC1)NC1=C(C(=CC=C1)Cl)F | C12H16ClFN2
reactant | sodium cyanoborohydride | 0.123 g | C(#N)[BH3-].[Na+]
reactant | trifluoroacetic acid | 0.633 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 20 mL | CO | CH4O
product | 1-Methyl-4-(N-(2-fluoro-3-chlorophenyl)ethylamino)piperidine | 0.50 g | CN1CCC(CC1)NCCC1=C(C(=CC=C1)Cl)F | C14H20ClFN2
